US04588828
(F) (trans)-3-(7-Phenyl-1,2-heptadiene-4,6-diynyl)oxiranemethanol
To a stirred solution of 20 mg (0.090 mmole) of 10-phenyl-7,9-decadiyne-2,4,5-trien-1-ol in 4 ml of benzene was added 2 mg of vanadyl acetylacetonate and 50 μl (0.26 mmole) of a 5.43M solution of t-butyl hydroperoxide in benzene. The mixture was stirred for two hours. The mixture was concentrated and the residue was purified via flash chromatography to afford 7 mg of the title compound as an approximately 1:1 mixture of diastereomers.

reactant | 10-phenyl-7,9-decadiyne-2,4,5-trien-1-ol | 0.090 mmole, 20 mg | C1(=CC=CC=C1)C#CC#CC=C=CC=CCO | C16H12O
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
catalyst | vanadyl acetylacetonate | 2 mg | C/C(=C\C(=O)C)/O.C/C(=C\C(=O)C)/O.O=[V]
product | (trans)-3-(7-Phenyl-1,2-heptadiene-4,6-diynyl)oxiranemethanol | 7 mg | C1(=CC=CC=C1)C#CC#CC=C=C[C@H]1[C@@H](O1)CO | C16H12O2
